US07074800B1
A suspension of (2R)-7-(2-acetoxy-3-(pyrrolidin-1-yl)propoxy)4-chloro-6-methoxyquinazoline (530 mg, 1.4 mmol) and 4-fluoro-5-hydroxy-2-methylindole (277 mg, 1.68 mmol), (prepared as described for the starting material in Example 237), in DMF (8 ml) containing potassium carbonate (290 mg, 2.1 mmol) was stirred at 90° C. for 2 hours. After cooling, the volatiles were removed under vacuum and the residue was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give (2R)-7-(2-acetoxy-3-(pyrrolidin-1-yl)propoxy)-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxyquinazoline (580 mg, 81%).

reactant | (2R)-7-(2-acetoxy-3-(pyrrolidin-1-yl)propoxy)4-chloro-6-methoxyquinazoline | 1.4 mmol, 530 mg | C(C)(=O)O[C@@H](COC1=C(C=C2C(=NC=NC2=C1)Cl)OC)CN1CCCC1 | C18H22ClN3O4
reactant | 4-fluoro-5-hydroxy-2-methylindole | 1.68 mmol, 277 mg | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
reactant | potassium carbonate | 2.1 mmol, 290 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | (2R)-7-(2-acetoxy-3-(pyrrolidin-1-yl)propoxy)-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxyquinazoline | 580 mg, 81% | C(C)(=O)O[C@@H](COC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC)CN1CCCC1 | C27H29FN4O5
